US05514643
Synthesis of 2-cyclopropylamino-4-methyl-thiazole-5-carboxylic acid (cyano-furan-2-yl-methyl)-amide (16)
1.4g of 2-cyclopropylamino-4-methyl-thiazole-5-carboxylic acid was converted into 2-cyclopropylamino-4-methyl-thiazole-5-carboxylic acid chloride using 1.6g of phosphorus pentachloride according to the same procedure as EXAMPLE 1. Then 1.2g of amino-furan-2-yl-acetonitrile hydrochloride and 3.2ml of triethylamine were added thereto and the reaction mixture was treated according to the same procedure as EXAMPLE 1 to obtain 0.83g (Yield 35%) of the title compound.

reactant | 2-cyclopropylamino-4-methyl-thiazole-5-carboxylic acid | 1.4g | C1(CC1)NC=1SC(=C(N1)C)C(=O)O | C8H10N2O2S
reactant | 2-cyclopropylamino-4-methyl-thiazole-5-carboxylic acid chloride | 1.6g | C1(CC1)NC=1SC(=C(N1)C)C(=O)Cl | C8H9ClN2OS
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | amino-furan-2-yl-acetonitrile hydrochloride | 1.2g | Cl.NC(C#N)C=1OC=CC1
solvent | triethylamine | 3.2ml | C(C)N(CC)CC | C6H15N
product | 2-cyclopropylamino-4-methyl-thiazole-5-carboxylic acid (cyano-furan-2-yl-methyl)-amide | 0.83g, Yield 35% | C(#N)C(C=1OC=CC1)NC(=O)C1=C(N=C(S1)NC1CC1)C | C14H14N4O2S
